US04684650
A mixture of piperazine (86 g, 1.0 mol), 1-(2-chloroethyl)-imidazolidin-2-one (74 g, 0.5 mol) and sodium carbonate (159 g, 1.5 mol) in ethanol (500 ml) was refluxed with stirring for 1.5 hours. A solution of 1-(2-chloroethyl)-imidazolidin-2-one (74 g, 0.5 mol) in methanol (75 ml) was then added in the course of 1.5 hours, at reflux temperature, whereupon the reaction mixture was refluxed for 18 hours. After cooling, the reaction mixture was filtered and evaporated in vacuo. The residue was dissolved in hot ethanol (100 ml), whereupon ethyl acetate (200 ml) was added. The crystals were filtered and dried to give 1-(2-(2-imidazolidinon-1-yl)ethyl)piperazine (60 g) mp. 136°-140° C. Additional 22 g could be obtained from the mother liquor.

reactant | piperazine | 1.0 mol, 86 g | N1CCNCC1 | C4H10N2
reactant | 1-(2-chloroethyl)-imidazolidin-2-one | 0.5 mol, 74 g | ClCCN1C(NCC1)=O | C5H9ClN2O
reactant | sodium carbonate | 1.5 mol, 159 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(2-chloroethyl)-imidazolidin-2-one | 0.5 mol, 74 g | ClCCN1C(NCC1)=O | C5H9ClN2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | methanol | 75 ml | CO | CH4O
product | 1-(2-(2-imidazolidinon-1-yl)ethyl)piperazine | 60 g | N1(C(NCC1)=O)CCN1CCNCC1 | C9H18N4O
